US04994087
Step 1: Synthesis of 2-[(3-nitro-2,4-dimethylphenyl)-amino]-pyridine.
3.3 g of 3-Nitro-2,4-dimethylaniline and 3.2 g of 2-bromo-pyridine are mixed and the resulting mixture heated for 8 hours to 170° C. After cooling to 20° C., the greasy mass formed was dissolved in water and the solution pH then raised by addition of sodium carbonate. The resulting precipitate was recrystallized from ethanol. 2 g of the product melting at 178° to 179° C. were obtained. Another 2.1 g of the substance were obtained from the aqueous phase by concentration.

reactant | 3-Nitro-2,4-dimethylaniline | 3.3 g | [N+](=O)([O-])C=1C(=C(N)C=CC1C)C | C8H10N2O2
reactant | 2-bromo-pyridine | 3.2 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-[(3-nitro-2,4-dimethylphenyl)-amino]-pyridine | 2 g | [N+](=O)([O-])C=1C(=C(C=CC1C)NC1=NC=CC=C1)C | C13H13N3O2
